US07935841B2
(v) Hydrogenation of 2-(tert-Butoxycarbonyl-methyl-amino)-3-(3,4-dichloro-phenyl)acrylic acid
2-(tert-Butoxycarbonyl-methyl-amino)-3-(3,4-dichloro-phenyl)-propionic acid, conversion 96%, ee 95% (HPLC, Chirobiotic R, 250 mm×4.6 mm, MeOH/0.1% TEA acetate pH 4.75 (40:60), 0.5 ml/min, ambient temperature, detection UV 230 nm, retention times 16.79 minutes and 21.53 minutes).

reactant | 2-(tert-Butoxycarbonyl-methyl-amino)-3-(3,4-dichloro-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N(C(C(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C | C15H19Cl2NO4
solvent | MeOH | pH 4.75 | CO | CH4O
product | 2-(tert-Butoxycarbonyl-methyl-amino)-3-(3,4-dichloro-phenyl)acrylic acid | C(C)(C)(C)OC(=O)N(C(C(=O)O)=CC1=CC(=C(C=C1)Cl)Cl)C | C15H17Cl2NO4
